US09212190B2
For the preparation of the starting material compound 34.2, please refer to the experimental procedure for the synthesis of compound Example 34. A 50-mL round-bottom flask, purged and maintained with an inert atmosphere of nitrogen, was charged with a solution of tert-butyl N-(4-[[(3R)-3-(2-hydroxyethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (197 mg, 0.44 mmol, 1.00 equiv) in dichloromethane (15 mL). Hydrochloric acid (conc., 0.5 mL) was added at 0° C. and the resulting solution was stirred for 2 h at room temperature. The pH value of the solution was adjusted to 10 with aqueous sodium bicarbonate (sat.) and extracted with dichloromethane. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 2-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethan-1-ol (118 mg, 77%) as a yellow solid. MS (ES): m/z 348[M+H]+.

reactant | tert-butyl N-(4-[[(3R)-3-(2-hydroxyethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 0.44 mmol, 197 mg, 1.00 equiv | OCC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C | C23H33N3O4S
reactant | Hydrochloric acid | 0.5 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethan-1-ol | 118 mg, 77% | CNC1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCO | C18H25N3O2S
